US04013662
l-Ethyl 6,7-Dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydroquinoline-1-carboxylate
A mixture of 570 mg. of l-ethyl 6,7-dimethoxy-3-aminomethylene-2-methyl-4-oxo-1,2,3,4-tetrahydroquinoline-1-carboxylate, 1.78 ml. of 1N sodium hydroxide and 3 ml. of ethanol was heated under reflux for 24 hours and then stored at 25° C. for 3 days. The solvent was removed by evaporation in vacuo, and the residue was dissolved in ethyl acetate. The ethyl acetate solution was washed with water and then it was concentrated to give 540 mg. of an oil. The oil was chromatographed using 30 g. of silica gel, and using 6:4 benzene-ethyl acetate as solvent, giving 6 fractions. Fractions 1 and 2 were combined and recrystallized from ethyl acetate-hexane to give 49 mg. of the title product, m.p. 92°-93° C. Fractions 3-6 were combined to give 152 mg. of 6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydroquinoline. This latter material was dissolved in 3 ml. of methylene chloride, and 3 ml. of pyridine followed by 0.5 ml. of ethyl chloroformate was added. After 20 minutes, the reaction mixture was diluted with an excess of methylene chloride and water. The organic phase was separated and washed successively with dilute hydrochloric acid, saturated sodium bicarbonate and brine. The methylene chloride solution was then dried, and evaporated in vacuo to give an oil. The oil was recrystallized from ethyl acetate-hexane to give 95 mg. of the title compound, m.p. 92°-93° C.

reactant | 6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydroquinoline | COC=1C=C2C(CC(NC2=CC1OC)C)=O | C12H15NO3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | water | O | H2O
product | l-Ethyl 6,7-Dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydroquinoline-1-carboxylate | COC=1C=C2C(CC(N(C2=CC1OC)C(=O)OCC)C)=O | C15H19NO5
